US05075208
Synthesis of 2 Methyl-5-phenyl-3-isooxazolone
To 60 g of 5-phenyl-3-isooxazolone was added 150 ml of methyl p-toluenesulfonate and the mixture obtained wa stirred for 3 hours at 80° C. The reaction mixture was allowed to cool, and after gradually adding thereto 30 ml of an aqueous 10% sodium hydroxide solution and 50 ml of an aqueous 30% ammonia solution under cooling, the resultant mixture was stirred for one hour at room temperature. Then, 500 ml of water was further added thereto and the mixture was stirred for a few hours at room temperature to deposit crystals, which were collected by filtration and dried to provide 30 g of the desired compound. The yield was 46%.

reactant | 5-phenyl-3-isooxazolone | 60 g | C1(=CC=CC=C1)C1=CC(NO1)=O | C9H7NO2
reactant | methyl p-toluenesulfonate | 150 ml | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ammonia | N | H3N
solvent | water | 500 ml | O | H2O
product | Methyl-5-phenyl-3-isooxazolone | 30 g, yield was 46% | CC=1C(NOC1C1=CC=CC=C1)=O | C10H9NO2
